** sch_path: /home/chris/.xschem/xschem_library/custom/test_opamp_va.sch
**.subckt test_opamp_va
V1 VSS 0 0.0
V2 VDD 0 3.0
V3 A 0 dc 1.5 pwl 0 1.4 49.9u 1.4 50.1u 1.6 99.9u 1.6 100.1u 1.4

V4 B 0 'VB'
R1 Z VSS 1MEG m=1
C1 Z VSS 1f m=1
XU1 A Y Y VDD VSS opamp_cell
XU2 A B Z VDD VSS opamp_cell
R2 Y VSS 1MEG m=1
C2 Y VSS 1f m=1
**.ends
**** begin user architecture code


.options savecurrents
.option temp = 25
.param VB = 1.5
.control
  let start_v = 1.0
  let stop_v = 2.0
  let step_v = 0.2
  let v = start_v
  save all
  op
  remzerovec
  write test_opamp.raw
  set appendwrite
  dowhile v <= stop_v
    alterparam VB = $&v
    reset
    dc V3 0 3 0.01
    remzerovec
    write test_opamp.raw
    let v = v + step_v
  end
  quit 0
.endc



.subckt opamp_cell INP INN OUT VDD VSS
N1 inp inn out vdd vss opamp_model
.ends opamp_cell

.model opamp_model opamp_module

.control
pre_osdi /home/chris/.xschem/xschem_library/custom/opamp.osdi
.endc

**** end user architecture code
.end
